2195-04-20 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2195-4-19**] 12:30 PM
 EKG - At [**2195-4-19**] 03:00 PM
   - no overnight events
   - ERCP stent no sphictoetomy, 3 stones seen
   - confirmed med list
   S: pt says
vomit
 2x overnight
 nurse observed this though and
   referred to her spitting up phlegm
   Allergies:
   Sulfasalazine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-4-20**] 05:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-4-19**] 10:08 AM
   Metoprolol - [**2195-4-20**] 04:18 AM
   Hydralazine - [**2195-4-20**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 74 (59 - 87) bpm
   BP: 151/46(73) {118/46(73) - 206/74(105)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,757 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                  1,957 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    440 mL
   Urine:
                                                                    540 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   CV: RRR
   Chest: CTAB
   Abd: +BS, NT/ND, soft
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 358**] / Radiology
   194 K/uL
   11.7 g/dL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   135 mEq/L
   35.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2195-4-19**]  03:20 PM
                             [**2195-4-20**]  03:44 AM
   WBC
   9.8
   Hct
   35.4
   Plt
   194
   Cr
   1.4
   1.3
   TropT
   <0.01
   Glucose
   85
   72
   Other [**Year (4 digits) **]: PT / PTT / INR:15.8/30.6/1.4, CK / CKMB /
   Troponin-T:13/3/<0.01, ALT / AST:231/239, Alk Phos / T Bili:248/3.2,
   Amylase / Lipase:118/79, Differential-Neuts:81.8 %, Lymph:11.1 %,
   Mono:6.2 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.6 mg/dL
   [**Age over 90 **] year old woman with past CABG now here w hx of abd pain, CBD
   dilatation seen at OSH. Now s/p ERCP and sphincterotomy w stent.
   #  CBD DILATATION AND LIVER ENZYME ABNORMALITIES
   Consistent with cholelithiasis/choledocholithiasis; [**Age over 90 **] consistent
   with ductal obstruction with elevated Alk phos, elevated ALT/AST, high
   bilirubin. Now s/p ERCP, sphincterotomy, stent. Formal report pending.
   - follow liver [**Age over 90 **] post-procedure
   - chemistries this PM
   .
   #  CAD
   Non-diagnostic ST changes seen on EKG in setting of hypertension and
   acute medical illness. Diffuse non-diagnostic abnormalities probably
   associated with demand and underlying disease but baseline risk is
   significant given past CABG, advanced age, HTN, hyperlipidemia.
   - cycling cardiac enzymes
   - change to PO metop today
   - aspirin; holding off on high-dose statin given earlier elevated liver
   [**Last Name (LF) **], [**First Name3 (LF) 124**] reconsider this evening if cardiac enzymes coming back +
   - pt needs baseline Echo, and baseline CXR
   #  Sputum
   Pt not febrile, and lung exam clear
 not c/w pneumonia.
   - f/u CXR
   - will not start abx currently
   .
   #  HTN
   Elevated systolic pressure, high pulse pressure, no physical exam
   findings clearly assoc w AR, no known hx of valvular dz per patient and
   patient
s daughter. Calcified [**Name2 (NI) 6753**] aorta seen on OSH CT.
   - increasing hydralazine for afterload reduction
   - po Metop, and PO hydral for breakthrouh
   - dynamic ST changes, see above; following EKG and cardiac enzyme
   - move to PO meds gradually after discussion w surgery
   - ACEi at home; would not restart in this setting given uncertain Cr
   compared to baseline
   #  RENAL FAILURE
   Apparently a chronic issue, not clear what her baseline is, may be
   close to baseline at this point. Will follow by [**Name2 (NI) **], no intervention
   for now.
   #  HYPOTHYROIDISM
   Continue levoxyl.
   #   DEPRESSION
   Get home dose of zoloft from daughter, will restart when dose
   established.
   #   BREAST CANCER
   Apparently was on tamoxifen (daughter unsure of med) for five years
   until a few months ago; not now. No evident recurrence. No need to
   pursue this in this setting; mets unlikely to be cause of current
   problems given CT from OSH not showing lesions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-4-19**] 09:14 AM
   18 Gauge - [**2195-4-19**] 09:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code (discussed with patient
s daughter ; will need
   to revisit with patient and patient
s daughter)
   Disposition: to floor today